US05466687
1.8 g of 1-chloroethyl chloroformate in 5 ml of methylene chloride are added dropwise to 2.9 g of 1-benzyl-3-(4-cyanobenzylidene)piperidine in 20 ml of methylene chloride at 0° C. and the mixture is stirred at 0° C. for 30 minutes. After 20 minutes at ambient temperature, it is evaporated down, the residue is taken up in 20 ml of methanol and the mixture is reflux-heated for 30 minutes. The reaction solution is evaporated down, and the residue is triturated with 100 ml of ethyl acetate and suction-filtered. 1.9 g of 3-(4-cyanobenzylidene)piperidine hydrochloride are obtained as a colourless powder.

reactant | 1-chloroethyl chloroformate | 1.8 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1-benzyl-3-(4-cyanobenzylidene)piperidine | 2.9 g | C(C1=CC=CC=C1)N1CC(CCC1)=CC1=CC=C(C=C1)C#N | C20H20N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-cyanobenzylidene)piperidine hydrochloride | 1.9 g | Cl.C(#N)C1=CC=C(C=C2CNCCC2)C=C1 | InChI=1S/C13H14N2.ClH/c14-9-12-5-3-11(4-6-12)8-13-2-1-7-15-10-13;/h3-6,8,15H,1-2,7,10H2;1H
